US04929634
Preparation of 3-Bromo-5-(p-chlorophenyl)pyrrole-2,4-dicarbonitrile
A sample of 5-(p-chlorophenyl)pyrrole-2,4-dicarbonitrile (1.0 g, 0.004 mole) is dissolved in 20 mL of dioxane and a solution of bromine (0.8 g, 0.005 mole) in dioxane (10 mL) is then added thereto. The solution is stirred several hours at room temperature and then poured into water precipitating a white solid (1.2 g, 100%). The solid has a m.p. >225° C. and a mass spectrum of a sample gives a pattern consistent with the desired structure.

reactant | 5-(p-chlorophenyl)pyrrole-2,4-dicarbonitrile | 0.004 mole, 1.0 g | ClC1=CC=C(C=C1)C1=C(C=C(N1)C#N)C#N | C12H6ClN3
reactant | bromine | 0.005 mole, 0.8 g | BrBr | Br2
reactant | water | O | H2O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-Bromo-5-(p-chlorophenyl)pyrrole-2,4-dicarbonitrile | BrC1=C(NC(=C1C#N)C1=CC=C(C=C1)Cl)C#N | C12H5BrClN3
